* File: /home/012/k/kt/ktd170030/cad/gf65/NOR2_PEX/nor2.pex.sp.pex
* Created: Thu Oct 26 14:25:12 2023
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NOR2%VSS 1 6 9 13 18 21 27 28
r44 16 23 0.0175382
r45 16 18 0.160441
r46 13 28 10
r47 11 23 0.0306086
r48 11 13 0.456612
r49 10 21 0.0175382
r50 9 23 0.0175382
r51 9 10 0.470492
r52 6 27 10
r53 4 21 0.0306086
r54 4 6 0.550469
r55 1 21 15
.ends

.subckt PM_NOR2%OUT 3 6 7 9 12 19 21 24 26 27
c47 24 0 1.1958e-19
r48 21 24 1.7
r49 18 24 0.139882
r50 18 19 0.00911515
r51 15 26 15
r52 12 15 0.388606
r53 12 26 10
r54 10 19 0.0653054
r55 10 12 0.534333
r56 9 19 0.0653054
r57 8 9 0.25648
r58 6 8 0.0479332
r59 6 7 0.417751
r60 3 27 10
r61 1 7 0.0479332
r62 1 3 0.452087
.ends

.subckt PM_NOR2%VDD 1 6 14 21
r29 12 17 0.0175382
r30 12 14 0.651242
r31 10 21 15
r32 6 10 0.388606
r33 6 21 10
r34 4 17 0.0306086
r35 4 10 0.816072
r36 1 17 30
.ends

.subckt PM_NOR2%A 4 6 9 10 12 14 19 23
c45 23 0 2.45279e-20
c46 9 0 1.09252e-19
r47 22 23 25
r48 19 23 1.7
r49 9 22 7.01013
r50 9 10 1.03924
r51 6 14 46.8661
r52 5 10 5.69898
r53 5 6 26.3622
r54 4 10 5.69898
r55 3 12 27.3386
r56 3 4 45.4992
.ends

.subckt PM_NOR2%B 4 6 9 10 12 14 19 23
c47 23 0 1.99079e-19
c48 19 0 5.56303e-20
c49 9 0 1.09252e-19
c50 4 0 2.45279e-20
r51 22 23 25
r52 19 23 1.7
r53 9 22 6.21653
r54 9 10 1.03924
r55 6 14 46.8661
r56 5 10 5.69898
r57 5 6 26.3622
r58 4 10 5.69898
r59 3 12 27.3386
r60 3 4 45.4992
.ends

