* File: /home/012/k/kt/ktd170030/cad/gf65/NOR3_PEX/nor3.pex.sp.pex
* Created: Thu Oct 26 18:23:13 2023
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NOR3%VSS 1 6 9 13 18 21 27 28
r64 16 23 0.0175382
r65 16 18 0.429874
r66 13 28 10
r67 11 23 0.0306086
r68 11 13 0.6412
r69 10 21 0.0175382
r70 9 23 0.0175382
r71 9 10 0.553082
r72 6 27 10
r73 4 21 0.0306086
r74 4 6 0.772999
r75 1 21 15
.ends

.subckt PM_NOR3%OUT 3 6 7 10 14 17 23 25 27 30 32 33 35
c64 30 0 1.1958e-19
r65 27 30 1.7
r66 24 30 0.139882
r67 24 25 0.00911515
r68 20 32 15
r69 17 20 0.388606
r70 17 32 10
r71 15 25 0.0653054
r72 15 17 0.534333
r73 14 25 0.0653054
r74 13 23 0.0363272
r75 13 14 0.0874363
r76 10 35 10
r77 8 23 0.0363272
r78 8 10 0.359461
r79 6 23 0.00944082
r80 6 7 1.60169
r81 3 33 10
r82 1 7 0.0479332
r83 1 3 0.433348
.ends

.subckt PM_NOR3%VDD 1 6 14 21
r36 12 17 0.0175382
r37 12 14 1.02087
r38 10 21 15
r39 6 10 0.388606
r40 6 21 10
r41 4 17 0.0306086
r42 4 10 0.816072
r43 1 17 30
.ends

.subckt PM_NOR3%A 4 6 9 10 12 14 20 24
c47 24 0 2.45279e-20
c48 9 0 1.09252e-19
r49 23 24 25
r50 16 20 0.0476892
r51 16 24 1.7
r52 9 23 7.01013
r53 9 10 1.03924
r54 6 14 46.8661
r55 5 10 5.69898
r56 5 6 26.3622
r57 4 10 5.69898
r58 3 12 27.3386
r59 3 4 26.948
.ends

.subckt PM_NOR3%B 4 6 9 10 12 14 20 24
c51 24 0 1.59382e-19
c52 9 0 2.24431e-19
c53 4 0 2.45279e-20
r54 23 24 25
r55 16 20 0.0326295
r56 16 24 1.7
r57 9 23 6.21653
r58 9 10 1.03924
r59 6 14 46.8661
r60 5 10 5.69898
r61 5 6 26.3622
r62 4 10 5.69898
r63 3 12 27.3386
r64 3 4 26.948
.ends

.subckt PM_NOR3%C 4 6 9 10 12 14 20 24
c48 24 0 1.99079e-19
c49 20 0 5.56303e-20
c50 9 0 1.15179e-19
c51 4 0 2.42527e-20
r52 23 24 25
r53 16 20 0.0476892
r54 16 24 1.7
r55 9 23 6.21653
r56 9 10 1.03924
r57 6 14 46.8661
r58 5 10 5.69898
r59 5 6 26.3622
r60 4 10 5.69898
r61 3 12 27.3386
r62 3 4 26.948
.ends

