* File: xor2.pex.sp.pex
* Created: Fri Oct 27 14:32:42 2023
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_XOR2%VSS 1 6 9 13 16 20 25 35 36 38
c79 9 0 1.26062e-19
c80 1 0 3.48139e-20
r81 23 31 0.0175382
r82 23 25 0.121854
r83 20 38 10
r84 18 31 0.0306086
r85 18 20 0.816072
r86 17 29 0.0175382
r87 16 31 0.0175382
r88 16 17 0.976186
r89 13 36 10
r90 11 29 0.0306086
r91 11 13 0.816072
r92 10 27 0.0175382
r93 9 29 0.0175382
r94 9 10 0.570683
r95 6 35 10
r96 4 27 0.0306086
r97 4 6 0.816072
r98 1 29 10
.ends

.subckt PM_XOR2%NET9 4 8 9 11 13 16 22 23 28 31 33 35 37 38
c93 33 0 9.04342e-20
c94 22 0 5.06267e-20
c95 13 0 1.5745e-20
c96 4 0 1.23354e-19
r97 33 35 0.116488
r98 33 34 25
r99 28 38 10
r100 26 28 0.359461
r101 25 31 0.00944082
r102 25 35 1.88494
r103 22 26 0.0479332
r104 22 23 0.302141
r105 19 37 15
r106 16 19 0.388606
r107 16 37 10
r108 14 31 0.0363272
r109 14 16 0.359461
r110 13 31 0.0363272
r111 12 23 0.0479332
r112 12 13 0.189445
r113 9 34 7.85156
r114 9 11 46.8661
r115 4 34 4.88833
r116 3 8 27.3386
r117 3 4 34.1732
.ends

.subckt PM_XOR2%OUT 3 7 10 20 22 24 27 28
c67 20 0 7.60351e-20
c68 10 0 1.48753e-19
c69 3 0 2.17559e-20
r70 18 28 0.0566524
r71 18 27 0.135076
r72 18 20 1.7
r73 13 22 15
r74 10 13 0.388606
r75 10 22 10
r76 8 28 0.0363877
r77 8 10 0.542105
r78 7 27 0.281739
r79 3 24 10
r80 1 7 0.0479332
r81 1 3 0.363347
.ends

.subckt PM_XOR2%VDD 1 6 14 17 21
r59 12 17 0.0175382
r60 12 14 1.13392
r61 10 21 15
r62 6 10 0.388606
r63 6 21 10
r64 4 17 0.0306086
r65 4 10 0.816072
r66 1 17 30
.ends

.subckt PM_XOR2%NET14 3 9 10 13 19 21
r42 17 21 15
r43 13 17 0.388606
r44 13 21 10
r45 11 17 0.38472
r46 9 11 0.0479332
r47 9 10 1.14008
r48 7 19 15
r49 3 7 0.388606
r50 3 19 10
r51 1 10 0.0479332
r52 1 7 0.38472
.ends

.subckt PM_XOR2%B 2 4 6 7 8 9 10 12 14 16 19 21 23 25 27 29 32 35
c87 29 0 1.28039e-19
r88 32 35 25
r89 29 32 1.7
r90 18 35 3.62782
r91 18 19 1.17391
r92 17 25 27.3386
r93 17 19 6.06739
r94 15 27 46.8661
r95 15 16 43.4488
r96 14 27 46.8661
r97 13 19 6.06739
r98 13 14 26.1669
r99 12 25 27.3386
r100 11 12 43.4488
r101 9 16 3.46412
r102 9 10 200.841
r103 7 11 3.46412
r104 7 8 200.841
r105 6 10 3.46412
r106 5 23 46.8661
r107 5 6 43.4488
r108 4 23 46.8661
r109 3 21 27.3386
r110 3 4 54.189
r111 2 21 27.3386
r112 1 8 3.46412
r113 1 2 43.4488
.ends

.subckt PM_XOR2%A 2 4 6 7 8 9 10 12 14 16 19 21 23 25 27 32 35 36
c102 36 0 6.90226e-20
c103 35 0 1.00128e-19
c104 32 0 1.75974e-19
c105 14 0 7.28233e-21
r106 35 36 25
r107 32 36 1.7
r108 18 35 4.01439
r109 18 19 1.17391
r110 17 21 27.3386
r111 17 19 6.06739
r112 15 27 46.8661
r113 15 16 25.3858
r114 14 27 46.8661
r115 13 25 27.3386
r116 13 14 54.189
r117 12 25 27.3386
r118 11 12 25.3858
r119 9 16 3.46412
r120 9 10 97.3449
r121 7 11 3.46412
r122 7 8 97.3449
r123 6 10 3.46412
r124 5 23 46.8661
r125 5 6 25.3858
r126 4 23 46.8661
r127 3 19 6.06739
r128 3 4 26.1669
r129 2 21 27.3386
r130 1 8 3.46412
r131 1 2 25.3858
.ends

